US06251911B1
With the exclusion of air, 8.0 g (45.9 mmol) of 2-(tetrazol-5-yl)-benzaldehyde are added to 19 g (138 mmol) of potassium carbonate in 100 ml of DMF/dioxane (1:1) in an ice bath. 4.25 ml (68 mmol) of methyl iodide are added dropwise thereto and the reaction mixture is stirred in the ice bath for 1 hour and at RT for 1.5 hours. The mixture is stirred into 1 liter of icewater and 0.6 liter of ethyl acetate and the aqueous phase is separated off and extracted twice more with ethyl acetate. The organic phases are washed four times with water and with brine, dried (Na2SO4) and concentrated by evaporation. Column chromatography (SiO2; hexane/ethyl acetate=3:1) and stirring in hexane yield 2-(2-methyl-tetrazol-5-yl)-benzaldehyde; TLC: Rf=0.41 (hexanelethyl acetate=3:1); FAB-MS: (M+H)+=189.

reactant | 2-(tetrazol-5-yl)-benzaldehyde | 45.9 mmol, 8.0 g | N1N=NN=C1C1=C(C=O)C=CC=C1 | C8H6N4O
reactant | potassium carbonate | 138 mmol, 19 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 68 mmol, 4.25 ml | CI | CH3I
reactant | ethyl acetate | 0.6 liter | C(C)(=O)OCC | C4H8O2
solvent | DMF dioxane | 100 ml | CN(C)C=O.O1CCOCC1
product | 2-(2-methyl-tetrazol-5-yl)-benzaldehyde | CN1N=C(N=N1)C1=C(C=O)C=CC=C1 | C9H8N4O
